US07244728B2
a) 2-methyl-1-(3-trifluoromethyl-phenyl)-propan-2-ol
90 mL of a 3 molar solution of methylmagnesium bromide in diethyl ether are diluted with 300 mL THF and cooled to −50° C. At this temperature 20 g 1-(3-trifluoromethyl-phenyl)-propan-2-one, dissolved in 100 mL THF, are added dropwise. After the addition has ended the reaction mixture is stirred overnight while heating to ambient temperature. It is combined with ammonium chloride solution and extracted with diethyl ether. The combined organic phases are washed with sodium chloride solution, dried with sodium sulphate and evaporated down. The residue remaining is purified by chromatography.

reactant | methylmagnesium bromide | C[Mg]Br
reactant | 1-(3-trifluoromethyl-phenyl)-propan-2-one | 20 g | FC(C=1C=C(C=CC1)CC(C)=O)(F)F | C10H9F3O
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | THF | 300 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 2-methyl-1-(3-trifluoromethyl-phenyl)-propan-2-ol | CC(CC1=CC(=CC=C1)C(F)(F)F)(C)O | C11H13F3O
